US05538988
A mixture of 1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydro-imidazole-2-thione (1 g, 4.3 mmol), prepared as in Example 9, ethyl acrylate (4.7 mL, 43 mmol) and hydrochloric acid (1N in ether, 8.7 mL, 8.7 mmol) in 20 mL of ethanol was heated at 80° C. under nitrogen for approximately 5 hours. The mixture was allowed to cool, concentrated and partitioned between saturated sodium bicarbonate solution and methylene chloride. The organic layer was separated and dried (K2CO3), filtered and concentrated. The residue was purified by column chromatography on silica gel eluting with methylene chloride/methanol (99: 1) to give ethyl 3-[1-(1,2,3,4-tetrahydronaphthalen-2-yl) imidazol-2-yl-thio]propionate (1.36 g, 4.1 mmol).

reactant | 1-(1,2,3,4-tetrahydronaphthalen-2-yl)-1,3-dihydro-imidazole-2-thione | 4.3 mmol, 1 g | C1C(CCC2=CC=CC=C12)N1C(NC=C1)=S | C13H14N2S
reactant | ethyl acrylate | 43 mmol, 4.7 mL | C(C=C)(=O)OCC | C5H8O2
reactant | hydrochloric acid | 8.7 mmol, 1N, 8.7 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | ethyl 3-[1-(1,2,3,4-tetrahydronaphthalen-2-yl) imidazol-2-yl-thio]propionate | 4.1 mmol, 1.36 g | C1C(CCC2=CC=CC=C12)N1C(=NC=C1)SCCC(=O)OCC | C18H22N2O2S
